US09233979B2
Phenyl(tetrahydrofuran-2-yl)methanamine HCl (640 mg, 2.99 mmol) was taken up in water (3 ml). Potassium cyanate (1215 mg, 14.97 mmol) and HCl (3 ml, 36.5 mmol) were then added. The reaction mixture was allowed to stir under microwave irradition at 80° C. for 1 hr. Saturated NaHCO3 and EtOAc were added. The products were extracted into EtOAc (3×). The combined organic layers were washed with brine, dried over MgSO4, and concentrated in vacuo to give 1-(phenyl(tetrahydrofuran-2-yl)methyl)urea. 1H NMR (ppm, 500 MHz, DMSO-d6) δ 7.23 (m, 4H), 7.18 (m, 1H), 6.43 (d, J=9.5, 1H), 5.57 (br s, 2H), 4.68-4.47 (dd, J=3.5, J=5.5, 1H), 3.97 (m, 1H), 3.76 (q, J=8.0 1H), 3.56 (q, J=7.0, 1H), 1.79-1.75 (m, 3H), 1.73 (m, 1H).

reactant | Phenyl(tetrahydrofuran-2-yl)methanamine HCl | 2.99 mmol, 640 mg | Cl.C1(=CC=CC=C1)C(N)C1OCCC1
reactant | Potassium cyanate | 14.97 mmol, 1215 mg | [O-]C#N.[K+]
reactant | HCl | 36.5 mmol, 3 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 3 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(phenyl(tetrahydrofuran-2-yl)methyl)urea | C1(=CC=CC=C1)C(NC(=O)N)C1OCCC1 | C12H16N2O2
